US07727979B2
2-benzyl-6-chloro-cyclohexanone (Starting Product for Example C-20)
The chlorination of 2-benzylcyclohexanone takes place in a manner similar to that described above for the preparation of 2-tert-butyl-6-chloro-cyclohexanone. The title compound is reacted as a crude product without further characterization.

reactant | 2-benzylcyclohexanone | C(C1=CC=CC=C1)C1C(CCCC1)=O | C13H16O
reactant | 2-tert-butyl-6-chloro-cyclohexanone | C(C)(C)(C)C1C(C(CCC1)Cl)=O | C10H17ClO
product | 2-benzyl-6-chloro-cyclohexanone | C(C1=CC=CC=C1)C1C(C(CCC1)Cl)=O | C13H15ClO
